US09334269B2
To 2-bromo-6-fluoropyridine (150.0 mg, 0.852 mmol) in 2-propanol (3.00 mL) at RT was added N-ethyl-N-isopropylpropan-2-amine (0.445 mL, 2.56 mmol) followed by 3-(4-fluorophenoxy)azetidine hydrochloride (174 mg, 0.852 mmol). The resulting reaction mixture was stirred at RT for 3.5 h, then heated to 70° C. for 24 h, cooled to RT and concentrated. Purification of the crude product using MPLC (5 g cartridge, 12 g column, 0 to 60% EtOAc-hexanes) gave 2-bromo-6-(3-(4-fluorophenoxy)azetidin-1-yl)pyridine (211.4 mg).

reactant | 2-bromo-6-fluoropyridine | 0.852 mmol, 150.0 mg | BrC1=NC(=CC=C1)F | C5H3BrFN
reactant | N-ethyl-N-isopropylpropan-2-amine | 2.56 mmol, 0.445 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-(4-fluorophenoxy)azetidine hydrochloride | 0.852 mmol, 174 mg | Cl.FC1=CC=C(OC2CNC2)C=C1
solvent | 2-propanol | 3.00 mL | CC(C)O | C3H8O
product | 2-bromo-6-(3-(4-fluorophenoxy)azetidin-1-yl)pyridine | 211.4 mg | BrC1=NC(=CC=C1)N1CC(C1)OC1=CC=C(C=C1)F | C14H12BrFN2O
